US08071588B2
A mixture of N-{[3-bromo-4-(methyloxy)phenyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}butanediamide (0.964 g, 1.603 mmol), (3-formylphenyl)boronic acid (0.300 g, 2.0 mmol), tetrakis (triphenylphosphine) palladium (0) (0.081 g, 0.07 mmol), and sodium carbonate (0.477 g, 4.5 mmol) in 1,4-dioxane (12 mL) and water (4 mL) under an N2 atmosphere was microwaved for 30 min at 140° C. The reaction mixture was diluted with EtOAc and water. The organic layers separated. The organic layer was washed with saturated NaCl, and then dried over Na2SO4. The organic layer was evaporated to viscous taffy. The viscous taffy was purified on a Chromatotron Plate Silica Gel (1000μ) eluting with CH2Cl2-MeOH (97:3) to afford N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-formyl-6-(methyloxy)-3-biphenylyl]methyl}butanediamide (701 mg, 69.8%) as a viscous, nearly colorless, taffy. LC-MS m/z 627.5 (M+H)+, 0.81 min (ret time).

reactant | N-{[3-bromo-4-(methyloxy)phenyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}butanediamide | 1.603 mmol, 0.964 g | BrC=1C=C(C=CC1OC)CNC(CCC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C28H37BrN6O4
reactant | (3-formylphenyl)boronic acid | 2.0 mmol, 0.300 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | sodium carbonate | 4.5 mmol, 0.477 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.07 mmol, 0.081 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-formyl-6-(methyloxy)-3-biphenylyl]methyl}butanediamide | 701 mg, 69.8% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CCC(=O)NCC=2C=C(C(=CC2)OC)C2=CC(=CC=C2)C=O)=O)CC | C35H42N6O5
